US07488747B2
Synthesis of 4-(4-chlorophenyl)-butan-2-one (66)
1.6 M Methyl lithium (33.9 mL, 54.17 mmol) was added over 70 min to a stirring 0° C. solution of 3-(4-chlorophenyl)-propionic acid (5.0072 g, 27.08 mmol) in dry Et2O (135 mL, 0.2 M): The ice bath was removed, and the reaction was allowed to stir at room temperature overnight. The reaction was the poured into rapidly stirring ice water containing aq. HCl. The organic layer was removed, washed with NaHCO3 and brine, then dried with Na2SO4, filtered, concentrated, and purified by silica gel chromatography (Combiflash column, 98:2 to 95:5 Hexanes: EtOAc) to achieve pure 66 (2.4253 g, 49.0%): 1H (CDCl3, 400 MHz): δ 7.14 (2H, d, J=8.3 Hz), 7.03 (2H, d, J=8.3 Hz), 2.77 (2H, t, J=7.5 Hz), 2.64 (2H, t, J=7.5 Hz), 2.04 (3H, s) ppm. 13C (CDCl3, 100 MHz): δ 207.12, 139.38, 131.59, 129.55, 128.35, 44.62, 29.82, 28.78 ppm. DEPT (CDCl3, 100 MHz): CH3 carbons: 29.82; CH2 carbons: 44.62, 28.78; CH carbons: 129.55, 128.35 ppm. HPLC: 10.361 min. (Note: SM has HPLC retention time of 9.409 min.)

reactant | Methyl lithium | 54.17 mmol, 1.6 M, 33.9 mL | C[Li]
reactant | 3-(4-chlorophenyl)-propionic acid | 27.08 mmol, 5.0072 g | ClC1=CC=C(C=C1)CCC(=O)O | C9H9ClO2
solvent | Et2O | 0.2 M, 135 mL | CCOCC | C4H10O
product | 4-(4-chlorophenyl)-butan-2-one | ClC1=CC=C(C=C1)CCC(C)=O | C10H11ClO
